* C:\Users\Michal\Documents\Elektronika\Kicad\Projekty\Differential probe\Differential-Probe\Symulacja\dIFFERENTIAL PROBE.asc
XU1 plus_ N006 N007 zas+ zas- OPA820
V1 in+ in- SINE(0 1500 10meg) AC ac 1 Rser=1u
R3 0 plus_ 20k
V2 zas+ 0 6
V3 0 zas- 6
XU2 minus_ N010 N015 zas+ zas- OPA820
XU3 N009 N005 N008 zas+ zas- OPA820
V4 +12 0 12
B1 gain 0 V=(1+2*(R1/Rgain))*(R3/R2)
R1 N001 in+ 3Meg
R12 minus_ 0 20k
R2 N002 N001 3Meg
R4 N003 N002 3Meg
R5 N004 N003 3Meg
R6 plus_ N004 3Meg
R7 N011 in- 3Meg
R8 N012 N011 3Meg
R9 N013 N012 3Meg
R10 N014 N013 3Meg
R11 minus_ N014 3Meg
R20 out 0 1Meg
R13 N006 test+ 100
R15 N010 NC_01 200
C1 N001 in+ 10p
C2 N002 N001 10p
C3 N003 N002 10p
C4 N004 N003 10p
C5 plus_ N004 10p
C6 N011 in- 10p
C7 N012 N011 10p
C8 N013 N012 10p
C9 N014 N013 10p
C10 minus_ N014 10p
C11 0 minus_ 1.51n
C12 plus_ 0 1.51n
R14 test- N010 100
R16 test+ N009 100
R17 N009 0 100
R18 N005 out 100
R19 test- N005 100
V5 N007 test+ 0
V6 N015 test- 0
V7 N008 out 0
.tran 10u
.param R1 100k
.param Rgain 200k
.param R3 100k
.param R2 100k
* 4Vpp, 2V amplitude for 1500V
* 8Vpp, 4V amplitude
* 0.0013315579 GAIN
.lib Sborka.lib
.backanno
.end
