* C:\Users\Michal\Documents\Elektronika\Kicad\Projekty\Differential probe\Differential-Probe\Symulacja\dIFFERENTIAL PROBE.asc
XU1 plus_ N005 N006 zas+ zas- OPA820
V1 in+ in- SINE(0 1500 10meg) AC ac 1 Rser=1u
R3 0 plus_ 20k
V2 zas+ 0 6
V3 0 zas- 6
XU2 minus_ N011 N017 zas+ zas- OPA820
XU3 N010 N007 N009 zas+ zas- OPA820
V4 +12 0 12
R1 N001 in+ 3Meg
R12 minus_ 0 20k
R2 N002 N001 3Meg
R4 N003 N002 3Meg
R5 N004 N003 3Meg
R6 plus_ N004 3Meg
R7 N013 in- 3Meg
R8 N014 N013 3Meg
R9 N015 N014 3Meg
R10 N016 N015 3Meg
R11 minus_ N016 3Meg
R20 out 0 1Meg
R13 N008 test+ 100
R15 N012 NC_01 200
C1 N001 in+ 10p
C2 N002 N001 10p
C3 N003 N002 10p
C4 N004 N003 10p
C5 plus_ N004 10p
C6 N013 in- 10p
C7 N014 N013 10p
C8 N015 N014 10p
C9 N016 N015 10p
C10 minus_ N016 10p
C11 0 minus_ 1.51n
C12 plus_ 0 1.51n
R14 test- N012 100
R16 test+ N010 100
R17 N010 0 100
R18 N007 out 100
R19 test- N007 100
V5 N006 test+ 0
V6 N017 test- 0
V7 N009 out 0
C13 N005 0 1p Rser=2m Lser=2n
C14 0 N011 10p Rser=2m Lser=2n
L1 N008 N005 4n
L2 N012 N011 4n
.ac dec 1000 1000 1000meg
* 4Vpp, 2V amplitude for 1500V
* 8Vpp, 4V amplitude
* 0.0013315579 GAIN
* .ac dec 1000 1000 1000meg
.lib Sborka.lib
.backanno
.end
