* C:\Users\Michal\Documents\Elektronika\Kicad\Projekty\Differential probe\Differential-Probe\Symulacja\dIFFERENTIAL PROBE.asc
XU1 plus_ N006 N007 zas+ zas- OPA820
V1 in+ in- SINE(0 1500 100meg) AC ac 1 Rser=1m
R3 0 plus_ 20k
V2 zas+ 0 6
V3 0 zas- 6
XU2 minus_ N012 N018 zas+ zas- OPA820
XU3 N011 N008 N009 zas+ zas- OPA820
V4 +12 0 12
R1 N002 N001 3Meg
R12 minus_ 0 20k
R2 N003 N002 3Meg
R4 N004 N003 3Meg
R5 N005 N004 3Meg
R6 plus_ N005 3Meg
R7 N014 N013 3Meg
R8 N015 N014 3Meg
R9 N016 N015 3Meg
R10 N017 N016 3Meg
R11 minus_ N017 3Meg
R20 out 0 1Meg
R13 N006 test+ 100
R15 N012 NC_01 200
C1 N002 N001 10p
C2 N003 N002 10p
C3 N004 N003 10p
C4 N005 N004 10p
C5 plus_ N005 10p
C6 N014 N013 10p
C7 N015 N014 10p
C8 N016 N015 10p
C9 N017 N016 10p
C10 minus_ N017 10p
C11 0 minus_ 1.51n
C12 plus_ 0 1.51n
R14 test- N012 100
R16 test+ N011 100
R17 N011 0 100
R18 N008 N010 100
R19 test- N008 100
V5 N007 test+ 0
V6 N018 test- 0
V7 N009 N010 0
C16 0 N013 5p Rser=1m Lser=2n
C15 N001 0 5p Rser=1m Lser=2n
L1 N001 in+ 2n
L2 N013 in- 2n
R21 out N010 50
* .ac dec 1000 1000 1000meg
* 4Vpp, 2V amplitude for 1500V
* 8Vpp, 4V amplitude
* 0.0013315579 GAIN
* .ac dec 1000 1000 1000meg
;ac dec 1000 1000 1000meg
.tran 100u
.lib Sborka.lib
.backanno
.end
